US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid cyclobutylmethyl ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and cyclobutylmethanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO) δ 1.01 (d,3H), 1.75(m,4H), 1.92(m,2H), 2.49 (m, 1H), 2.65 (m,1H), 2.85-3.20 (m,4H), 4.09 (d, 2H), 4.85 (bt, 1H), 6.58 (d, 1H), 6.76 (m,2H), 7.35(m,3H), 7.46(s,1H); IR (KBr): 1652 cm- (C=O), 1761 cm-1 (C=O); MS (CI) m/z 490 (MH+). Anal. Calcd. for C25H28ClNO7 : C, 61.29; H, 5.76; N, 2.86; Cl, 7.24. Found: C, 57.13; H, 5.15; N, 2.43; Cl, 6.83.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | cyclobutylmethanol | C1(CCC1)CO | C5H10O
reactant | KBr | [K+].[Br-]
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid cyclobutylmethyl ester | C1(CCC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)O | C25H28ClNO7
